US07078428B2
4-Trifluoromethyl-N-isobutylphthalimide is prepared as described in Example 2, starting with 14.8 g of 4-trifluoromethylphthalic anhydride, 7.2 cm3 of isobutylamine and a catalytic amount of para-toluenesulfonic acid in 160 cm3 of toluene. The reaction mixture is heated at a temperature in the region of 140° C. for 5 hours and is then cooled to a temperature in the region of 20° C. The reaction mixture is concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. and the residue is taken up in 250 cm3 of ethyl acetate and 200 cm3 of saturated aqueous sodium hydrogen carbonate solution. The aqueous phase is separated out after settling has taken place and then extracted twice with 250 cm3 of ethyl acetate. The organic extracts are combined, washed with saturated brine, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 14.9 g of 4-trifluoromethyl-N-isobutylphthalimide are thus obtained in the form of a yellow powder (Rf=0.59, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (75/25 by volume)).

reactant | 4-trifluoromethylphthalic anhydride | 14.8 g | FC(C=1C=C2C(C(=O)OC2=O)=CC1)(F)F | C9H3F3O3
reactant | isobutylamine | 7.2 cm3 | C(C(C)C)N | C4H11N
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 160 cm3 | C1(=CC=CC=C1)C | C7H8
product | 4-trifluoromethyl-N-isobutylphthalimide | 14.9 g | FC(C=1C=C2C(C(=O)N(C2=O)CC(C)C)=CC1)(F)F | C13H12F3NO2
